US05877120
Preparation of 7-(4,6-dimethoxypyrimidin-2-yl)-4-(2-thienyl)furo[3,4-b]pyridin-5(7H)one (Compound No. 210)
0.7 g of 7-(4,6-dimethoxypyrimidin-2-yl)-7-hydroxy-4-(2-thienyl)furo[3,4-b]pyridin-5(7H)one was dissolved in 30 ml of ethyl alcohol, and while this solution was stirred under cooling with ice, 0.07 g of sodium boron hydride was added thereto. The mixture was stirred at room temperature for 30 minutes, and then the ethyl alcohol was removed by distillation in vacuo. The residue was acidified with 10% hydrochloric acid and extracted with 200 ml of ethyl acetate. The extract was washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off, and the resulting residue was purified by silica gel column chromatography (developing solvent: ethyl acetate/hexane=1/2) to obtain 0.35 g (yield 52.0%) of the desired compound. m.p.: 120°-123° C.

reactant | 7-(4,6-dimethoxypyrimidin-2-yl)-7-hydroxy-4-(2-thienyl)furo[3,4-b]pyridin-5(7H)one | 0.7 g | COC1=NC(=NC(=C1)OC)C1(OC(C=2C1=NC=CC2C=2SC=CC2)=O)O | C17H13N3O5S
reactant | sodium boron hydride | 0.07 g | B.[Na]
solvent | ethyl alcohol | 30 ml | C(C)O | C2H6O
product | 7-(4,6-dimethoxypyrimidin-2-yl)-4-(2-thienyl)furo[3,4-b]pyridin-5(7H)one | 0.35 g, yield 52.0% | COC1=NC(=NC(=C1)OC)C1OC(C=2C1=NC=CC2C=2SC=CC2)=O | C17H13N3O4S
